US07026339B2
A solution of 2-[hydrazonomethyl]phenyl 4-(trifluoromethyl)benzenesulfonate (150 mg, 0.44 mmol) and 1,3-benzodioxol-5-ylacetic acid (1.2 equiv) in DMF (1 mL) is treated with a solution of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC) (167 mg, 0.87 mmol) and 4-dimethylaminopyridine (DMAP) (106 mg, 0.87 mmol) in CH2Cl2 (10 mL). The solution is shaken overnight on an orbital shaker. The solution is evaporated to dryness using a speed. Water is added to the mixture, which is then sonicated to give a solid. The solid is filtered and washed with a large amount of water. A small amount of methanol is added and the mixture sonicated. The resulting solid is filtered and washed with more methanol to yield pure 2-((E)-{2-[2-(1,3-benzodioxol-5-yl)acetyl]hydrazono}methyl)phenyl 4-(trifluoromethyl)benzenesulfonate. The yield is 169 mg, 77%. 1H NMR (400 MHz, DMSO) □ 11.48 (2s, 1H), 8.01 (m, 6H), 7.12 (m, 6H), 5.99 (2s, 2H), 3.62 (2s, 2H). ESI− for C23H17F3N2O6S, m/z 505, (M−H)−.

reactant | 2-[hydrazonomethyl]phenyl 4-(trifluoromethyl)benzenesulfonate | 0.44 mmol, 150 mg | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C=NN)(F)F | C14H11F3N2O3S
reactant | 1,3-benzodioxol-5-ylacetic acid | 1.2 equiv | O1COC2=C1C=CC(=C2)CC(=O)O | C9H8O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.87 mmol, 167 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.87 mmol, 106 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((E)-{2-[2-(1,3-benzodioxol-5-yl)acetyl]hydrazono}methyl)phenyl 4-(trifluoromethyl)benzenesulfonate | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)/C=N/NC(CC1=CC2=C(OCO2)C=C1)=O)(F)F | C23H17F3N2O6S
